US06720320B2
(S)-3-(7-glycidyloxybenzo(b)furan-2-yl)-5-methyl-1,2,4-oxadiazole
By the reactions in the same manner as in Starting Material Synthesis Example 1 using 3-(7-hydroxybenzo(b)furan-2-yl)-5-methyl-1,2,4-oxadiazole (1.5 g) and (S)-glycidyl nosylate (1.8 g), the title compound (1.7 g) was obtained as white crystals.

reactant | 3-(7-hydroxybenzo(b)furan-2-yl)-5-methyl-1,2,4-oxadiazole | 1.5 g | OC1=CC=CC2=C1OC(=C2)C2=NOC(=N2)C | C11H8N2O3
reactant | (S)-glycidyl nosylate | 1.8 g | S(=O)(=O)(OC[C@@H]1CO1)C1=CC=C([N+](=O)[O-])C=C1 | C9H9NO6S
product | (S)-3-(7-glycidyloxybenzo(b)furan-2-yl)-5-methyl-1,2,4-oxadiazole | 1.7 g | C([C@@H]1CO1)OC1=CC=CC2=C1OC(=C2)C2=NOC(=N2)C | C14H12N2O4
